US03931407
1-(4-Amino-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC85##
A mixture of 4.0 g. (0.011 mole) of 1-(4-acetamido-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole, 50 ml. of ethanol, 10 ml. of water, and 2 ml. of conc. hydrochloric acid was heated under reflux under nitrogen for 4 hours, concentrated to 10 ml., diluted with 100 ml. of water, adjusted to pH 4 and filtered. Recrystallization of the collected solid from 75% ethanol gave 0.83 g. (23%) of crystals, m.p. 205.5°-206.5°.

reactant | 1-(4-acetamido-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | 0.011 mole | C(C)(=O)NC1=C(C=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1)C(=O)O | C23H22N2O3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(4-Amino-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | NC1=C(C=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1)C(=O)O | C21H20N2O2
